US05962458
Using an analogous procedure to that described in Example 25, 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (224 mg, 0.7 mmol), (prepared as described for the starting material in Example 24), and 2-chloromethyl-1-methylimidazole hydrochloride (140 mg, 0.8 mmol) were combined to give 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-((1-methylimidazol-2-yl)methoxy)quinazoline hydrochloride (150 mg, 44%).

reactant | 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline | 0.7 mmol, 224 mg | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C15H11ClFN3O2
reactant | 2-chloromethyl-1-methylimidazole hydrochloride | 0.8 mmol, 140 mg | Cl.ClCC=1N(C=CN1)C
product | 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-((1-methylimidazol-2-yl)methoxy)quinazoline hydrochloride | 150 mg, 44% | Cl.ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCC=2N(C=CN2)C)C=C1)F | InChI=1S/C20H17ClFN5O2.ClH/c1-27-6-5-23-19(27)10-29-18-9-16-13(8-17(18)28-2)20(25-11-24-16)26-15-4-3-12(21)7-14(15)22;/h3-9,11H,10H2,1-2H3,(H,24,25,26);1H
